US04117168
Preparation of Bis(p-chlorophenyl)methyl n-butyl sulfoxide
The procedure for making bis(p-chlorophenyl)methyl methyl sulfone was followed, using a slight excess of m-chloroperbenzoic acid (0.027 mole acid to 0.025 mole of bis(p-chlorophenyl)methyl n-butyl sulfoxide). A light amber liquid was formed and this gave crystals which were recrystallized from methanol as a white solid of bis(p-chlorophenyl)methyl n-butyl sulfoxide, melting point 116°-188° C.

reactant | bis(p-chlorophenyl)methyl methyl sulfone | CS(=O)(=O)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H12Cl2O2S
reactant | m-chloroperbenzoic acid | 0.027 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | Bis(p-chlorophenyl)methyl n-butyl sulfoxide | C(CCC)S(=O)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H18Cl2OS
